US06352993B1
5,6-dimethyl-2-(piperidin-1-yl)-4-(1methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After piperidine(0.26 ml, 2.61 mmol) and triethylamine(0.36 ml, 2.59 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine(0.5 g, 1.74 mmol) in dimethylformamide, 490 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | piperidine | 2.61 mmol, 0.26 ml | N1CCCCC1 | C5H11N
reactant | triethylamine | 2.59 mmol, 0.36 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine | 1.74 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1C(C2=CC=CC=C2CC1)C)C)C | C16H18ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-(piperidin-1-yl)-4-(1methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 490 mg, Yield 75.5% | Cl.CC=1C(=NC(=NC1C)N1CCCCC1)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C21H28N4.ClH/c1-15-16(2)22-21(24-12-7-4-8-13-24)23-20(15)25-14-11-18-9-5-6-10-19(18)17(25)3;/h5-6,9-10,17H,4,7-8,11-14H2,1-3H3;1H
